US07375101B2
7-Chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-3-isothiocyanato-1-methyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 2, 3-amino-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (1.15 g, 3.18 mmol) and thiophosgene (0.49 mL, 6.4 mmol) were combined. Purification of the crude product by silica gel column chromatography (9:1 CH2Cl2:EtOAc) provided the title compound as a viscous dark yellow oil (0.560 g, 44%). 1H-NMR (CDCl3): δ 8.60 (s, 1H), 7.55 (dd, J=2.5 Hz, J=8.8 Hz, 1H), 7.33 (d, J=8.8 Hz, 1H), 7.17 (d, J=2.5 Hz, 1H), 5.16 (s, 1H), 4.07 (s, 3H), 3.78 (s, 3H), 3.49 (s, 3H). MS (ESI) (M+H)+=404.

reactant | 3-amino-7-chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 3.18 mmol, 1.15 g | NC1C(N(C2=C(C(=N1)C=1C(=NC(=NC1)OC)OC)C=C(C=C2)Cl)C)=O | C16H16ClN5O3
reactant | thiophosgene | 6.4 mmol, 0.49 mL | C(=S)(Cl)Cl | CCl2S
product | 7-Chloro-5-(2,4-dimethoxy-5-pyrimidinyl)-1,3-dihydro-3-isothiocyanato-1-methyl-2H-1,4-benzodiazepin-2-one | 0.560 g, 44% | ClC=1C=CC2=C(C(=NC(C(N2C)=O)N=C=S)C=2C(=NC(=NC2)OC)OC)C1 | C17H14ClN5O3S
